US08026236B2
F: 4-(3-(Tetrahydro-2H-pyran-2-yloxy)-propoxy)-3-(trifluoromethyl)-phenylboronic acid
BuLi (2.5M, 19.1 ml) was added dropwise to a solution of 2-(3-(4-bromo-2-(trifluoromethyl)phenoxy)propoxy)tetrahydro-2H-pyran (16.6 g) in THF at −78° C. under N2 during 3 minutes. After stirring at −78° C. for another 10 minutes, triisopropyl borate (11 ml) was then added dropwise during 3 minutes at −78° C. The mixture was stirred at −78° C. for further 20 minutes, then warmed up to room temperature slowly and stirred at room temperature for 30 minutes. The mixture was then quenched with acetic acid (10% in water, 20 ml), extracted with EtOAc (200 ml), washed with brine (100 ml×5), dried over sodium sulphate, solvent removed under reduced pressure, the residue was taken in to toluene and then solvent removed under vacuum to take out trace of acetic acid (repeat 3 times, until no acetic acid smell). The product, as shown by NMR, contains 3 sets of product peaks assumed to be monomer, dimer and trimer.

reactant | BuLi | 2.5M, 19.1 ml | [Li]CCCC
reactant | 2-(3-(4-bromo-2-(trifluoromethyl)phenoxy)propoxy)tetrahydro-2H-pyran | 16.6 g | BrC1=CC(=C(OCCCOC2OCCCC2)C=C1)C(F)(F)F | C15H18BrF3O3
reactant | triisopropyl borate | 11 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | C1CCOC1 | C4H8O
product | 4-(3-(Tetrahydro-2H-pyran-2-yloxy)-propoxy)-3-(trifluoromethyl)-phenylboronic acid | O1C(CCCC1)OCCCOC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C15H20BF3O5
